US06838476B1
a) N-(4-Fluorobenzyliden)-4-methylsulfonylaniline
A mixture of 19.60 g (115 mmol) of 4-methylsulfonylaniline, 12.19 mL (115 mmol) of 4-fluorobenzaldehyde and 590 mL of toluene was refluxed in a Dean-Stark for 2 days. The solvent was removed and the crude product obtained was directly used in the next reaction.

reactant | 4-methylsulfonylaniline | 115 mmol, 19.60 g | CS(=O)(=O)C1=CC=C(N)C=C1 | C7H9NO2S
reactant | 4-fluorobenzaldehyde | 115 mmol, 12.19 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | toluene | 590 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Fluorobenzyliden)-4-methylsulfonylaniline | FC1=CC=C(C=NC2=CC=C(C=C2)S(=O)(=O)C)C=C1 | C14H12FNO2S
